US07414116B2
3-[2-Azido-2-(2-hydroxy-ethoxy)-ethoxy]-benzoic acid
3-[2-Azido-2-(2-hydroxy-ethoxy)-ethoxy]-benzoic acid ethyl ester (1.34 g, 4.55 mmol) was stirred with 4 M aqueous sodium hydroxide (11.4 ml, 45.5 mmol) and ethanol (11.4 ml) at room temperature. After 3 hrs, all the solvents were removed under reduced pressure and the residue was dissolved in 50 ml water. The solution was acidified with 1 N HCl to pH 2 and then extracted with DCM (3×50 ml). All the DCM extracts were combined, dried over MgSO4 and evaporated under reduced pressure. The title compound was obtained as a colourless solid (1.2 g, 98.7%). ES-MS, m/z 265.85 (M−1).

reactant | 3-[2-Azido-2-(2-hydroxy-ethoxy)-ethoxy]-benzoic acid ethyl ester | 4.55 mmol, 1.34 g | C(C)OC(C1=CC(=CC=C1)OCC(OCCO)N=[N+]=[N-])=O | C13H17N3O5
reactant | sodium hydroxide | 45.5 mmol, 4 M, 11.4 ml | [OH-].[Na+]
solvent | ethanol | 11.4 ml | C(C)O | C2H6O
product | 3-[2-Azido-2-(2-hydroxy-ethoxy)-ethoxy]-benzoic acid | N(=[N+]=[N-])C(COC=1C=C(C(=O)O)C=CC1)OCCO | C11H13N3O5
